US07514457B2
A 3-methylamino-4-nitrobenzonitrile (2.91 g, 16.4 mmol, Journal of Medicinal Chemistry (2001), 44(17), 2753-2771) was treated with borohydride-THF solution (1M THF solution, 65.6 ml) and the mixture was stirred for 3 hours at 0° C. After the addition of MeOH, the mixture was partitioned with water and EtOAc. The crude product was extracted with EtOAc and the organic layer was washed with water and dried over MgSO4. Then, filtration, evaporation gave the yellow colored oil, which was used for the next reaction without purification. The residue was dissolved in 1,4-dioxane (10 ml), and then 2[{(tert-butoxycarbonyl)oxy}imino]-2-phenylacetonitrile (3.13 g, 12.7 mmol) was added. After stirring for 14 hours at room temperature, the residue was concentrated in vacuo followed by the purification through silica gel column chromatography eluting with hexane/EtOAc (20:1) to give tert-butyl [(3-methylamino-4-nitrophenyl)methyl]carbamate as yellow colored solid (864 mg, 19%). 1H NMR (CDCl3): δ 1.47 (9H, s), 3.02 (3H, d, J=5.3 Hz), 4.31 (2H, d, J=5.9 Hz), 4.96 (1H, s), 6.56 (1H, d, J=9.3 Hz), 6.73 (1H, s), 8.08 (1H, brs), 8.14 (1H, d, J=8.6 Hz). MS (ESI) m/z 282 (M−H)+.

reactant | 3-methylamino-4-nitrobenzonitrile | 16.4 mmol, 2.91 g | CNC=1C=C(C#N)C=CC1[N+](=O)[O-] | C8H7N3O2
reactant | borohydride THF | 1M, 65.6 ml | [BH4-].C1CCOC1
reactant | MeOH | CO | CH4O
reactant | 2[{(tert-butoxycarbonyl)oxy}imino]-2-phenylacetonitrile | 12.7 mmol, 3.13 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | tert-butyl [(3-methylamino-4-nitrophenyl)methyl]carbamate | 864 mg, 19% | CNC=1C=C(C=CC1[N+](=O)[O-])CNC(OC(C)(C)C)=O | C13H19N3O4
